US08471005B2
7-[3-(tert-Butyl-dimethyl-silanyloxymethyl)-phenyl]-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine (1.12 g, 2.90 mmol) was dissolved in methanol (20 mL) and sodium tungstate dihydrate (77.3 mg, 0.234 mmol), acetic acid (1.37 mL, 24.2 mmol) and 50% hydrogen peroxide (610 uL, 10.7 mmol) were added. The reaction mixture was then stirred and heated at 65° C. for 4 hours. Once the reaction was complete, 25 mL of 10% Na2S2O3 was added and the reaction was stirred for 5 minutes. The reaction was diluted with saturated NaHCO3 and the product was collected by filtration to obtain 7-[3-(tert-butyl-dimethyl-silanyloxymethyl)-phenyl]-2-methanesulfonyl-pyrrolo[2,1-f][1,2,4]triazine as a yellow solid (818 mg, 67%). m.p.=61-65° C.; LCMS (m/e)=418 (M+H); 1H-NMR (d6-DMSO, 400 MHz) δ 9.40 (s, 1H), 8.21-8.06 (m, 2H), 7.77 (d, 1H, J=4.6 Hz), 7.60-7.50 (m, 1H), 7.48-7.37 (m, 2H), 4.81 (s, 2H), 3.46 (s, 3H), 0.91 (s, 9H), 0.11 (s, 6H).

reactant | 7-[3-(tert-Butyl-dimethyl-silanyloxymethyl)-phenyl]-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine | 2.90 mmol, 1.12 g | C(C)(C)(C)[SiH2]OC(C=1C=C(C=CC1)C1=CC=C2C=NC(=NN21)SC)(C)C | C20H27N3OSSi
reactant | acetic acid | 24.2 mmol, 1.37 mL | C(C)(=O)O | C2H4O2
reactant | hydrogen peroxide | 10.7 mmol, 610 uL | OO | H2O2
reactant | Na2S2O3 | 25 mL | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | methanol | 20 mL | CO | CH4O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
catalyst | sodium tungstate dihydrate | 0.234 mmol, 77.3 mg | O.O.[O-][W](=O)(=O)[O-].[Na+].[Na+]
product | 7-[3-(tert-butyl-dimethyl-silanyloxymethyl)-phenyl]-2-methanesulfonyl-pyrrolo[2,1-f][1,2,4]triazine | 818 mg, 67% | C(C)(C)(C)[SiH2]OC(C=1C=C(C=CC1)C1=CC=C2C=NC(=NN21)S(=O)(=O)C)(C)C | C20H27N3O3SSi
